US05312823
d) 2,3-Dihydro-1H-pyrrolo[3,4-c]pyridine dihydrochloride
10.4 g (51 mmol) of ethyl 2,3-dihydro-1H-pyrrolo-[3,4-c]pyridine-2-carboxylate are refluxed for 15 hours together with 100 ml of concentrated hydrochloric acid. The batch is evaporated, and the crystalline residue is stirred with acetone. The product is filtered off with suction and dried in the air.

reactant | ethyl 2,3-dihydro-1H-pyrrolo-[3,4-c]pyridine-2-carboxylate | 51 mmol, 10.4 g | C1N(CC=2C=NC=CC21)C(=O)OCC | C10H12N2O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
product | 2,3-Dihydro-1H-pyrrolo[3,4-c]pyridine dihydrochloride | Cl.Cl.C1NCC=2C=NC=CC21 | InChI=1S/C7H8N2.2ClH/c1-2-8-4-7-5-9-3-6(1)7;;/h1-2,4,9H,3,5H2;2*1H
